US05436240
Part B. t-Butyl (1,2,5,6-tetrahydro-2-oxo-4H-imidazo(4,5,1 -ij)quinolin-5-yl)carbamate (compound XXXIII)
t-Butyl (8-amino-1,2,3,4-tetrahydro-3-quinolyl)carbamate (2.70 g) was dissolved in THF (100 mL) and stirred while a solution of phosgene in THF (20.7 mL of 0.40 M, 0.093 mol) was added. After 5 minutes, methylamine (2.08 g, 0.020 mol) was added and the solution stirred for an additional 10 minutes. The THF was removed under reduced pressure and the material was partitioned between chloroform (250 mL) and water (20 nil,). The chloroform was washed with 4N sodium hydroxide (5 mL) and evaporated. The crude material was combined with that of an earlier reaction (0.002 mol scale) and purified by chromatography on silica gel in 1% methanol: chloroform to give 2.28 g of product. Crystallization from methanol:ether (1:1) gave 1.60 g (54%) white solid, mp 235°-36° C. Anal. Calc'd for C15H19N3O3 : C, 62.26; H, 6.62; N, 14.52. Found: C, 61.65; H, 6.94; N, 14.23.

reactant | t-Butyl (8-amino-1,2,3,4-tetrahydro-3-quinolyl)carbamate | 2.70 g | NC=1C=CC=C2CC(CNC12)NC(OC(C)(C)C)=O | C14H21N3O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | methylamine | 0.020 mol, 2.08 g | CN | CH5N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 0.093 mol, 0.40 M, 20.7 mL | C1CCOC1 | C4H8O
product | t-Butyl (1,2,5,6-tetrahydro-2-oxo-4H-imidazo(4,5,1 -ij)quinolin-5-yl)carbamate | 2.28 g | O=C1NC=2C=CC=C3CC(CN1C23)NC(OC(C)(C)C)=O | C15H19N3O3
